US08871756B2
3-{[4-(4-Aminoquinolin-2-yl)-1,1-dioxido-2,3,4,5-tetrahydro-1,4-benzothiazepin-8-yl]oxy}propan-1-ol
A mixture solution of tert-butyl {2-[8-(3-hydroxypropoxy)-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl]quinolin-4-yl}carbamate (359.1 mg, the crude product of the above step) and trifluoroacetic acid (1.0 mL) in dichloromethane (2.0 mL) was stirred at room temperature for 6 hours. The reaction mixture was diluted with water (10 mL) and extracted with ethyl acetate (100 mL). The organic layer was washed with brine (50 mL×2), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by preparative HPLC to afford 14.2 mg of the desired product as a white solid (yield was 4.9%). MS obsd. (ESI+) [(M+H)+] 414, 1HNMR ((400 MHz, CD3OD) δ ppm 7.82-7.67 (m, 2 H), 7.54-7.48 (m, 2 H), 7.48-7.39 (m, 1 H), 7.19-7.06 (m, 2 H), 6.30 (s, 1 H), 5.04 (s, 2 H), 4.78-4.34 (m, 2 H), 4.11 (t, J=6.32 Hz, 2 H), 3.71 (t, J=6.19 Hz, 2 H), 3.62-3.49 (m, 2 H), 2.11-1.78 (m, 2 H).

reactant | tert-butyl {2-[8-(3-hydroxypropoxy)-1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl]quinolin-4-yl}carbamate | OCCCOC1=CC2=C(CN(CCS2(=O)=O)C2=NC3=CC=CC=C3C(=C2)NC(OC(C)(C)C)=O)C=C1 | C26H31N3O6S
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 3-{[4-(4-Aminoquinolin-2-yl)-1,1-dioxido-2,3,4,5-tetrahydro-1,4-benzothiazepin-8-yl]oxy}propan-1-ol | 14.2 mg, yield was 4.9% | NC1=CC(=NC2=CC=CC=C12)N1CCS(C2=C(C1)C=CC(=C2)OCCCO)(=O)=O | C21H23N3O4S
